US09062092B2
(E)-(2R,5S,11S,14S)-14-Isopropyl-2,11,15-trimethyl-3,9,12,15,28-pentaaza-tricyclo[21.3.1.1*5,9*]octacosa-1(27),21,23,25-tetraene-4,10,13,16-tetraone—Compound 17
A solution of 17a (950 mg, 1.74 mmol) in dichloromethane (25 mL) was stirred at 0° C. under nitrogen. Trimethylsilyl trifluoromethanesulfonate (577 mg, 0.47 mL, 2.6 mmol) was added and the reaction mixture was stirred at 0° C. for 1 h. Additional trimethylsilyl trifluoromethanesulfonate (0.2 mL, 1.1 mmol) was added and the reaction mixture was stirred at 0° C. for 2 h. N,N-diisopropylethylamine (903 mg, 1.2 mL, 7 mmol) was added and the solvent was evaporated and the residue was dried to afford crude (S)-1-[(S)-2-((S)-3-methyl-2-methylamino-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (1.74 mmol), which was used in the next step. A solution of crude (S)-1-[(S)-2-((S)-3-methyl-2-methylamino-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (1.74 mmol) in acetonitrile (20 mL) was stirred at 0° C. under nitrogen. Hept-6-enoic acid (268 mg, 0.3 mL, 2.1 mmol) and N,N-diisopropylethylamine (903 mg, 1.2 mL, 7 mmol) were added. 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (912 mg, 2.4 mmol) was added and the reaction mixture was stirred at room temperature for 18 h. The solvent was evaporated and the residue was diluted with ethyl acetate. The solution was washed with saturated sodium hydrogen carbonate solution, water, 2 M hydrochloric acid, water and brine, dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanelethyl acetate 3:1 to 1:1 to afford the title compound (710 mg, 74%) as a white solid.

reactant | (S)-1-[(S)-2-((S)-3-methyl-2-methylamino-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.74 mmol | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC)=O)=O)(Cl)Cl | C16H27Cl3N4O4
reactant | Hept-6-enoic acid | 2.1 mmol, 0.3 mL, 268 mg | C(CCCCC=C)(=O)O | C7H12O2
reactant | N,N-diisopropylethylamine | 7 mmol, 1.2 mL, 903 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 2.4 mmol, 912 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (E)-(2R,5S,11S,14S)-14-Isopropyl-2,11,15-trimethyl-3,9,12,15,28-pentaaza-tricyclo[21.3.1.1*5,9*]octacosa-1(27),21,23,25-tetraene-4,10,13,16-tetraone | 710 mg, 74% | C(C)(C)[C@H]1C(N[C@H](C(N2CCC[C@@H](C(N[C@@H](C=3C=CC=C(/C=C/CCCCC(N1C)=O)C3)C)=O)N2)=O)C)=O | C29H43N5O4
